US08735595B2
4-Isopropoxy-phenol
To a solution of hydroquinone (55.7 g, 0.5 mol) and 2-iodopropane (57.5 g, 0.33 mol) in ethanol was added a solution of potassium hydroxide (78.5 g, 0.5 mol) in water (100 mL). The dark brown solution was then refluxed for 16 hours. The solution was concentrated and the remaining aqueous phase was acidified with 2N HCl and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated to give over 70 g of crude material, which was triturated with methylene chloride and filtered. The filtrate was concentrated and purified on silica gel (5˜35% ethyl acetate in hexane) to give 23.0 g of the title compound (46% yield). 1H NMR (300 MHz, CDCl3) δ ppm 1.30 (d, J=5.88 Hz, 6 H) 4.30-4.50 (m, 1 H) 4.78 (s, 1 H) 6.66-6.86 (m, 4 H). MS (ESI): m/z 151 (M−H).

reactant | hydroquinone | 0.5 mol, 55.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 2-iodopropane | 0.33 mol, 57.5 g | IC(C)C | C3H7I
reactant | potassium hydroxide | 0.5 mol, 78.5 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-Isopropoxy-phenol | 23.0 g, 46% yield | C(C)(C)OC1=CC=C(C=C1)O | C9H12O2
